US05714488
To a solution in EtOH--THF (3:1, 4 mL) of bis(4-(7-chloro-2-quinolyl-methoxy)phenyl)methyloximinoacetic acid (240 mg, 0.4 mmol), prepared as in Example 5, was added 1N aqueous NaOH (0.5 mL, 0.5 mmol). The mixture was stirred overnight at room temperature and concentrated in vacuo. The residue was slurried in ether (15 mL), filtered, and dried in vacuo to provide bis(4-(7-chloro-2-quinolylmethoxy)phenyl)methyloximinoacetic acid sodium salt (220 mg): mp 181°-183° C.; 1H NMR (300 MHz, DMSO-d6)δ4.15 (s, 2H), 5.41 (m, 4H), 7.07 (dd, 4H, J=12, 3 Hz), 7.28 (d, 2H, J=9 Hz), 7.56 (d, 2H, J=9 Hz), 7.73 (m, 4H), 8.06 (m, 4H), 8.49 (m, 2H); MS (FAB) 660 (M+H)+, 682 (M+Na)+. Anal. Calcd. for C35H24Cl2N3O5Na×2.5 H2O: C, 59.58, H, 4.11; N, 5.96. Found C, 59.61; H, 3.94; N, 5.72.

reactant | bis(4-(7-chloro-2-quinolyl-methoxy)phenyl)methyloximinoacetic acid | 0.4 mmol, 240 mg | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C=C1)Cl)C(C(=O)O)=NO | C35H25Cl2N3O5
reactant | NaOH | 0.5 mmol, 1N, 0.5 mL | [OH-].[Na+]
solvent | EtOH THF | 4 mL | CCO.C1CCOC1
product | bis(4-(7-chloro-2-quinolylmethoxy)phenyl)methyloximinoacetic acid sodium salt | 220 mg | [Na+].ClC1=CC=C2C=CC(=NC2=C1)COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C=C1)Cl)C(C(=O)[O-])=NO | InChI=1S/C35H25Cl2N3O5.Na/c36-25-9-1-21-3-11-27(38-31(21)17-25)19-44-29-13-5-23(6-14-29)33(34(40-43)35(41)42)24-7-15-30(16-8-24)45-20-28-12-4-22-2-10-26(37)18-32(22)39-28;/h1-18,33,43H,19-20H2,(H,41,42);/q;+1/p-1
